US06235731B1
1) Synthesis of ethyl 1-(tert-butoxycarbonyl)piperidine-4-carboxylate
To a solution of 16.377 g (104.17 mM) of ethyl piperidine-4-carboxylate in 150 ml of tetrahydrofuran was added a solution of 25.0 g (115 mM) of di-tert-butyl dicarbonate in 50 ml of tetrahydrofuran dropwise at room temperature and the mixture was stirred at the prevailing temperature for 3 hours. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (hexane-ethyl acetate:9/1 to 6/1) to provide the title compound.

reactant | ethyl piperidine-4-carboxylate | 104.17 mM, 16.377 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | di-tert-butyl dicarbonate | 115 mM, 25.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 1-(tert-butoxycarbonyl)piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)OCC | C13H23NO4
